US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((4-methyloxazol-2-yl)methyl)benzenesulfonamide
To a stirred solution of 2-((4-methyloxazol-2-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (180 mg, 0.47 mmol) and 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol (106 mg, 0.71 mmol) in 10 mL of ACN was added pyridine (114 uL, 1.41 mmol) dropwise. The reaction mixture was stirred at room temperature for 3 hours. After the mixture was concentrated, the residue was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated to give the desired compound as a yellow residue (236 mg, yield 94%). A small portion of the crude mixture was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a yellow solid. 2,2,2-Trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((4-methyloxazol-2-yl)methyl)phenyl)acetamide MS calcd for (C20H17BN3O6F3S): 495.2. MS found (ESI negative): (M−H)−=494.1. 1H NMR (DMSO-d6) δ (ppm): 11.51 (s, 1H), 10.43 (s, 1H), 9.20 (s, 1H), 7.91 (d, J=8.8 Hz, 1H), 7.77 (s, J=8.8 Hz, 1H), 7.69 (s, 1H), 7.53 (s, 1H), 7.44 (s, 1H), 7.24 (d, J=8.4 Hz, 1H), 7.12 (d, J=8.0 Hz, 1H), 4.86 (s, 2H), 4.47 (s, 2H), 2.01 (s, 3H).

reactant | 2-((4-methyloxazol-2-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 0.47 mmol, 180 mg | CC=1N=C(OC1)CC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C13H10ClF3N2O4S
reactant | 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol | 0.71 mmol, 106 mg | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | pyridine | 1.41 mmol, 114 uL | N1=CC=CC=C1 | C5H5N
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((4-methyloxazol-2-yl)methyl)benzenesulfonamide | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC=1OC=C(N1)C | C18H18BN3O5S
